US20010006969A1
4-Allylamino-2-(2-methoxyethylamino)-7-methylthieno[3,2-d] pyrimidine
287 mg (1.2 mmol) of 4-allylamino-2-chloro-7-methylthieno[ 3,2-d]pyrimidine and 1.44 mg (19.2 mmol) of 2-methoxyethylamine were heated in a sealed tube at 160° C. for 16 hours. After completion of the reaction, the reaction mixture was allowed to resume room temperature, followed by adding a saturated aqueous sodium hydrogen carbonate solution thereto and extraction with ethyl acetate (50 ml×2). After the organic layer was washed with brine and dried over anhydrous sodium sulfate, the solvent was distilled off. The residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane= ¼) to give 274 mg (yield: 82.3%) of the title compound.

reactant | 4-allylamino-2-chloro-7-methylthieno[ 3,2-d]pyrimidine | 1.2 mmol, 287 mg | C(C=C)NC=1C2=C(N=C(N1)Cl)C(=CS2)C | C10H10ClN3S
reactant | 2-methoxyethylamine | 19.2 mmol, 1.44 mg | COCCN | C3H9NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 4-Allylamino-2-(2-methoxyethylamino)-7-methylthieno[3,2-d] pyrimidine | 274 mg, yield: 82.3% | C(C=C)NC=1C2=C(N=C(N1)NCCOC)C(=CS2)C | C13H18N4OS
